US09085555B2
1-tert-Butoxycarbonylmethyl-1H-indole-3-carboxylic acid ethyl ester
To a suspension of 1H-indole-3-carboxylic acid ethyl ester (800 mg, 4.23 mmol) and potassium carbonate (1.34 g, 9.72 mmol) in CH3CN (21 mL) under nitrogen was added tert-butyl bromoacetate (875 μL, 5.92 mmol) and the reaction mixture was heated at reflux overnight. The reaction mixture was allowed to cool to RT, EtOAc and water were added and the layers were separated, the aqueous one being re-extracted with EtOAc. The organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography (c-hexane to c-hexane/EtOAc 1:1) to afford the desired compound. TLC, Rf (EtOAc)=0.77; MS (LC/MS): 304.1 [M+H]+, 302.0 [M−H]−; tR (HPLC conditions a): 4.01 min.

reactant | 1H-indole-3-carboxylic acid ethyl ester | 4.23 mmol, 800 mg | C(C)OC(=O)C1=CNC2=CC=CC=C12 | C11H11NO2
reactant | potassium carbonate | 9.72 mmol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 5.92 mmol, 875 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 21 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 1-tert-Butoxycarbonylmethyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C17H21NO4
